*BZG05C8V2 MCE 4/7/98
*Ref: Temic Semiconductor Short Form, 1996
*8.2V 3W Si Zener pkg:DO214 1,2
.SUBCKT BZG05C8V2 1 2
*    TERMINALS:  A K
D1 1 2  DF
DZ 3 1  DR
VZ 2 3  7.694
.MODEL DF D (IS=15.1N RS=14M N=1.7 CJO=279P VJ=0.75 M=0.33 TT=50.1N)
.MODEL DR D (IS=2.2E-16 RS=0.265 N=0.6)
.ENDS